US06586423B2
2-(6-Chloromethyl-pyridin-2-ylamino)-thiazole-5-carbonitrile (11-3)
2-(6-Hydroxymethyl-pyridin-2-ylamino)-thiazole-5-carbonitrile (0.300 g, 0.29 mmol) was stirred in 5 mL anh DCM under N2. Anhydrous DMF (0.100 mL, 1.29 mmol) and POCl3 (0.120 mL, 1.29 mmol) were added. After 15 h the reaction was diluted with water and the pH was adjusted to 9 with sat NaHCO3 (aq). The dCM was removed in vacuo and the precipitate which formed was filtered and washed with water to provide the titled compound. 1H NMR (DMSO-d6) δ12.35 (s, 1H), 8.29 (s, 1H), 7.85 (t, 1H, J=7.8 Hz, 7.21 (d, 1H, 7.3 Hz), 7.11 (d, 1H, 8.2 Hz), 4.85 (s, 2H).

reactant | 2-(6-Hydroxymethyl-pyridin-2-ylamino)-thiazole-5-carbonitrile | 0.29 mmol, 0.300 g | OCC1=CC=CC(=N1)NC=1SC(=CN1)C#N | C10H8N4OS
reactant | DMF | 1.29 mmol, 0.100 mL | CN(C)C=O | C3H7NO
reactant | POCl3 | 1.29 mmol, 0.120 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-(6-Chloromethyl-pyridin-2-ylamino)-thiazole-5-carbonitrile | ClCC1=CC=CC(=N1)NC=1SC(=CN1)C#N | C10H7ClN4S
